US05571843
5-hydroxyindan-1,2,3-trione, monohydrate
A solution of 0.01 mol of 2-bromo-5-hydroxyindan-1,3-dione in 10 ml dimethyl sulphoxide was heated to 80° C. for 30 minutes. 50 ml of a 1N hydrochloric acid solution was added, after which heating was continued for 30 minutes. The oily suspension obtained after cooling was extracted with ethyl ether. The organic phase was washed in water and dried over magnesium sulphate.

reactant | 2-bromo-5-hydroxyindan-1,3-dione | 0.01 mol | BrC1C(C2=CC=C(C=C2C1=O)O)=O | C9H5BrO3
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | dimethyl sulphoxide | 10 ml | CS(=O)C | C2H6OS
product | 5-hydroxyindan-1,2,3-trione, monohydrate | O.OC=1C=C2C(C(C(C2=CC1)=O)=O)=O | InChI=1S/C9H4O4.H2O/c10-4-1-2-5-6(3-4)8(12)9(13)7(5)11;/h1-3,10H;1H2
